US09328078B2
To a solution of 6-bromo-4-chlorobenzo[c][1,2,5]oxadiazole (372 mg, 1.6 mmol) in NMP (3 mL) in a 4 dram vial was added isoindoline (238 mg, 2 mmol) and triethylamine (400 μL, 2.9 mmol). A cap was tightly fitted and the reaction was heated at 85° C. O/N. The reaction was worked up by diluting with EtOAc (60 mL) and washing with 1M HCl (3×20 mL) and brine (1×20 mL). The organic phase was dried with MgSO4 filtered and concentrated in vacuo. The crude material was purified by flash column chromatography (9:1 Hex/EtOAc) to give 208 mg (41% yield) of 6-bromo-4-(isoindolin-2-yl)benzo[c][1,2,5]oxadiazole. 1H NMR (300 MHz, CDCl3) δ=7.38 (m, 4H), 7.26 (s, 1H), 6.14 (s, 1H), 5.14 (s, 4H). To a solution of the afore mentioned material, (200 mg, 0.6 mmol) in DME (4 mL)/Na2CO3 (0.9 mL) was added 3-formyl-phenylboronic acid (134 mg, 0.9 mmol) and Pd(P(Ph)3)4 (35 mg). The flask was then fitted with a reflux condenser, purged with argon and heated to 115° C. O/N. The reaction was worked up by diluting with 1 M NaOH (40 mL) and extracting with EtOAc (3×20 mL). The organic phase was washed with brine, dried with MgSO4 and concentrated in vacuo. The crude material was fused to SiO2 (2 g) and purified by flash column chromatography (2:1 DCM/Hex) to give 190 mg (92% yield). 1H NMR (500 MHz, CDCl3) δ=10.18 (s, 1H), 8.24 (m, 1H), 7.99 (dm, J=8 Hz, 2H), 7.70 (t, J=7 Hz, 1H), 7.44 (m, 4H), 7.26 (s, 1H), 6.30 (s, 1H), 5.25 (s, 4H). To a stirring solution of the afore mentioned material, (190 mg, 0.55 mmol) and Rupert's reagent (150 mg, 1.1 mmol) in DCM (5 mL) at 0° C. was added TBAF (0.1 mL, 1 M THF, 0.1 mmol). After 30 min at low temperature the cold bath was removed and the reaction was allowed to come to RT. After 3 hours an excess of TBAF was added and the reaction was diluted with DCM. The organic phases were washed with saturated NH4Cl, brine, and then dried with MgSO4 and concentrated in vacuo. The crude material was passed through a plug of SiO2 (DCM) and then purified by flash column chromatography (2:1 DCM/Hex). 1H NMR (500 MHz, CDCl3) δ=7.84 (s, 1H), 7.77 (dt, J=7 Hz, 2 Hz, 1H), 7.60 (m, 2H), 7.43 (m, 4H), 7.23 (s, 1H), 6.25 (s, 1H), 5.31 (s, 4H), 5.2 (m, 1H), 2.68 (s, 1H).

reactant | 6-bromo-4-chlorobenzo[c][1,2,5]oxadiazole | 1.6 mmol, 372 mg | BrC=1C=C(C=2C(=NON2)C1)Cl | C6H2BrClN2O
reactant | isoindoline | 2 mmol, 238 mg | C1NCC2=CC=CC=C12 | C8H9N
reactant | triethylamine | 2.9 mmol, 400 μL | C(C)N(CC)CC | C6H15N
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
product | 6-bromo-4-(isoindolin-2-yl)benzo[c][1,2,5]oxadiazole | 208 mg, 41% yield | BrC=1C=C(C=2C(=NON2)C1)N1CC2=CC=CC=C2C1 | C14H10BrN3O
